US07935815B2
Synthesis of 8-(2-trifluoromethylphenyl)-2-vinyl-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine
2-[2-(Toluene-4-sulfinyl)ethyl]-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine (8.87 g) was dissolved in toluene (300 ml), and the reaction solution was heated under reflux for three days. After leaving to cool, the reaction solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (4.27 g). The property values of the compound are as follows.

reactant | 2-[2-(Toluene-4-sulfinyl)ethyl]-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 8.87 g | C1(=CC=C(C=C1)S(=O)CCC1=NN2C(C(CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)C | C22H22F3N3OS
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(2-trifluoromethylphenyl)-2-vinyl-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 4.27 g | FC(C1=C(C=CC=C1)C1C=2N(CCC1)N=C(N2)C=C)(F)F | C15H14F3N3
